US06756378B2
To a stirred solution of methyl 4-[N′-(2-bromophenyl)ureido]-3-chlorophenylacetate (1.34 g, 3.37 mmol) in THF (30 ml) was added 0.25 N NaOH (30 ml). After stirring at room temperature for 14 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of 1 N HCl and dried at 60° C. for 2 days under a reduced pressure to give 4-[N′-(2bromophenyl)ureido]-3-chlorophenylacetic acid (1.03 g, 80%) as colorless powder. 1H-NMR (DMSO ) δ3.56 (s, 2H), 7.00 (m, 1H), 7.17 (dd, J=9.0, 1.7 Hz, 1H), 7.32-7.40 (m, 2H), 7.62 (dd, J=8.0, 1.2 Hz, 1H), 7.95 (m, 2H), 8.83 (s, 1), 9.01 (s, H), 12.41 (br, 1H); MS(FAB) m/z 385 (M++2), 386 (M++4), 388 (M++6).

reactant | methyl 4-[N′-(2-bromophenyl)ureido]-3-chlorophenylacetate | 3.37 mmol, 1.34 g | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC)Cl)=O | C16H14BrClN2O3
reactant | NaOH | 0.25 N, 30 ml | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-[N′-(2bromophenyl)ureido]-3-chlorophenylacetic acid | 1.03 g, 80% | BrC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)Cl)=O | C15H12BrClN2O3
